US08580762B2
Step 6: 1-Fluoro-4-(1-methoxy-2-methylpropan-2-yl)benzene
Sodium hydride (1.664 g, 41.6 mmol, 60% dispersion in mineral oil) was suspended in dry THF (18 ml) under N2 and 2-(4-fluorophenyl)-2-methylpropan-1-ol (3.500 g, 20.8 mmol) in dry THF (18 ml) was slowly added to the suspension at 0° C. After complete addition the reaction was warmed to r.t. and left for 1 h. Iodomethane (6.5 ml, 0.104 mmol) was slowly added at r.t. and the reaction left for 3 h. The reaction was quenched by slow addition of H2O (35 ml). The layers were separated and the aqueous layer was extracted with EtOAc (3×35 ml). The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to give the crude product. The product was purified by silica flash column chromatography using between 100% heptane to 10% EtOAc:90% heptane as eluent to give the product as a colourless oil (2.991 g, 79%): LC purity 98% (ret. time, 2.16 min); 1H NMR (500 MHz, CDCl3) δH 7.40-7.32 (m, 2H), 7.11-6.96 (m, 2H), 3.39 (s, 2H), 3.33 (s, 3H), 1.33 (s, 6H).

reactant | Sodium hydride | 41.6 mmol, 1.664 g | [H-].[Na+]
reactant | 2-(4-fluorophenyl)-2-methylpropan-1-ol | 20.8 mmol, 3.500 g | FC1=CC=C(C=C1)C(CO)(C)C | C10H13FO
reactant | THF | 18 ml | C1CCOC1 | C4H8O
reactant | THF | 18 ml | C1CCOC1 | C4H8O
catalyst | Iodomethane | 0.104 mmol, 6.5 ml | IC | CH3I
product | 1-Fluoro-4-(1-methoxy-2-methylpropan-2-yl)benzene | 2.991 g, 79% | FC1=CC=C(C=C1)C(COC)(C)C | C11H15FO
